US05112966
To a solution of (3S,4S)-4-carboxy-3-(1-(R)-hydroxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (34 g) in methanol (310 ml) was added 98% sulfuric acid (2.9 g), and the resultant mixture was heated at 65° C. for 3 hours, cooled down to 40° C., neutralized with 8% sodium hydroxide (15 ml) and concentrated to make a one third volume. The concentrate was diluted with 1,2-dichloroethane (105 ml) and washed with water. The aqueous layer was separated from the organic layer and extracted with 1,2-dichloroethane (105 ml). The extracts and the organic layer were combined together, washed with water and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-methoxycarbonyl-3-(1-(R)-hydroxyethyl)-1-di(p-anisyl)methyl-2-azetidinone. m.p., 102°-104° C.

reactant | (3S,4S)-4-carboxy-3-(1-(R)-hydroxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 34 g | C(=O)(O)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)O | C23H27NO6
reactant | sulfuric acid | 2.9 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | methanol | 310 ml | CO | CH4O
product | (3S,4S)-4-methoxycarbonyl-3-(1-(R)-hydroxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | COC(=O)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)O | C24H29NO6
